US08809339B2
2-amino-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide
Into a 50-mL 3-necked round bottom flask, purged and maintained with an inert atmosphere of nitrogen, was placed 2-nitro-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide (250 mg, 0.53 mmol, 1.00 equiv), methanol (15 mL), and ethyl acetate (5 mL). The mixture was treated with Pd/C (0.1 g, 0.10 equiv) and stirred under an atmosphere of hydrogen for 2 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 0.23 g (98%) of product as a light yellow solid.

reactant | 2-nitro-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide | 0.53 mmol, 250 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C(=O)NC=2C=NC(=NC2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H20F3N5O3
reactant | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 0.1 g, 0.10 equiv | [Pd] | Pd
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide | 0.23 g, 98% | NC1=C(C(=O)NC=2C=NC(=NC2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H22F3N5O
